US07148250B2
To a solution of methyl 3-[2-(acetylthio)ethyl]-1H-indole-2-carboxylate (0.364 g, 1.31 mmol), phenylboronic acid (0.239 g, 1.97 mmol), and copper(II)acetate (0.237 g, 1.31 mmol) in dichloromethane (10 mL) was added pyridine (0.91 mL, 6.55 mmol), and the mixture was stirred at room temperature for 2 days. The reaction mixture was passed through a column of silica gel (EtOAc/hexanes, 1:9) to afford 3-(2-acetylthioethyl)-1-phenyl-1H-indole-2-carboxylic acid, methyl ester (0.153 g, 0.43 mmol, 33%) as a clear oil: 1H NMR (CDCl3) δ 2.37 (s, 3H), 3.20–3.24 (m, 2H), 3.39–3.43 (m, 2H), 3.75 (s, 3H), 7.07 (d, J=8.2 Hz, 1H), 7.20–7.32 (m, 4H), 7.42–7.53 (m, 3H), 7.87 (d, J=7.9 Hz, 1H).

reactant | methyl 3-[2-(acetylthio)ethyl]-1H-indole-2-carboxylate | 1.31 mmol, 0.364 g | C(C)(=O)SCCC1=C(NC2=CC=CC=C12)C(=O)OC | C14H15NO3S
reactant | phenylboronic acid | 1.97 mmol, 0.239 g | C1(=CC=CC=C1)B(O)O | C6H7BO2
reactant | pyridine | 6.55 mmol, 0.91 mL | N1=CC=CC=C1 | C5H5N
solvent | dichloromethane | 10 mL | ClCCl | CH2Cl2
catalyst | copper(II)acetate | 1.31 mmol, 0.237 g | C(C)(=O)[O-].[Cu+2].C(C)(=O)[O-]
product | 3-(2-acetylthioethyl)-1-phenyl-1H-indole-2-carboxylic acid, methyl ester | 0.43 mmol, 0.153 g, 33% | C(C)(=O)SCCC1=C(N(C2=CC=CC=C12)C1=CC=CC=C1)C(=O)OC | C20H19NO3S
